US04837238
Ethyl 2-(pyrazol-4-ylamino)cyclohexane-1-carboxylate (D7)
A solution of 4-nitropyrazole (5.2 g, 0.046 mole) in ethanol (150 ml) was hydrogenated over a 10% Pd/C catalyst (0.5 g) at atmospheric temperature and pressure until the uptake of hydrogen ceased. The catalyst was filtered off and the filtrate treated with ethyl 2-cyclohexanonecarboxylate (7.3 ml, 0.046 mole), before evaporating to dryness. A few drops of concentrated hydrochloric acid (0.1 ml) were added to the yellow oil, which was then heated on the steam bath under nitrogen for 10 minutes. The mixture was dissolved in ethyl acetate, washed with aqueous sodium hydrogen carbonate solution and water, then dried (MgSO4) and concentrated to leave a yellow solid. This was recrystallised from ether/60°-80° petroleum ether to give the title compound as a white solid (9.7 g, 90%), m.p. 92°-94° C. Found: C, 61.20; H, 7.35; N, 18.00% C12H17N3O2 requires C, 61.25; H, 7.30; N, 17.85%

reactant | 4-nitropyrazole | 0.046 mole, 5.2 g | [N+](=O)([O-])C=1C=NNC1 | C3H3N3O2
reactant | hydrogen | [H][H] | H2
reactant | ethyl 2-cyclohexanonecarboxylate | 0.046 mole, 7.3 ml | CCOC(=O)C1CCCCC1=O | C9H14O3
solvent | ethanol | 150 ml | C(C)O | C2H6O
catalyst | Pd/C | 0.5 g | [Pd] | Pd
product | Ethyl 2-(pyrazol-4-ylamino)cyclohexane-1-carboxylate | 9.7 g, 90% | N1N=CC(=C1)NC1C(CCCC1)C(=O)OCC | C12H19N3O2
